US06716991B1
Step 1. Preparation of 1-(1,3-Benzodioxol-5-yl)-4,4-difluorobutane-1,3-dione
Ethyl difluoroacetate (1.72 g, 11 mmol) was dissolved in ether (25 mL). To the stirred solution was added 25% sodium methoxide (2.38 g, 11 mmol) followed by 3′,4′-(methylenedioxy)acetophenone (1.64 g, 10 mmol). After stirring 16 hours, 1N HCl (25 mL) was added. The organic layer was collected and washed with water (2×25 mL), dried over magnesium sulfate, filtered, and concentrated. The resulting crude dione was used in the next step without further purification of characterization.

reactant | Ethyl difluoroacetate | 11 mmol, 1.72 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | sodium methoxide | 11 mmol, 2.38 g | C[O-].[Na+]
reactant | 3′,4′-(methylenedioxy)acetophenone | 10 mmol, 1.64 g | C1OC=2C=C(C=CC2O1)C(C)=O | C9H8O3
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | ether | 25 mL | CCOCC | C4H10O
product | 1-(1,3-Benzodioxol-5-yl)-4,4-difluorobutane-1,3-dione | O1COC2=C1C=CC(=C2)C(CC(C(F)F)=O)=O | C11H8F2O4
